US08222249B2
3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (1.11 g, 3.0 mmol) and 1,1′-Carbonyldiimidazole (535 mg, 3.3 mmol) were suspended in dry DMF (20 mL) and the mixture was stirred at rt for 24 h. While stirring, a portion of the reaction mixture (6.7 mL, ˜1 mmol) was transferred to a vial containing tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate (273 mg, 1.1 mmol). The resulting mixture was stirred at rt overnight and the reaction progress was monitored by LCMS. After 48 h, additional tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate (50 mg, 0.2 mmol) was transferred to the reaction mixture and stirring continued for another 24 h. The reaction mixture was acidified with acidic acid and water. The volatiles were removed in vacuo and the residue was dissolved in DMF and purified using C-18 preparatory HPLC to give 6-{3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-ureido}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester as a white solid (290 mg, 53% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 5.02 min (96.5%): mp: 230-232° C.; 1H NMR (DMSO-d6) δ 1.42 (s, 9H, (CH3)3), 1.90-2.11 (m, 1H, CHH), 2.23-2.47 (m, 1H, CHH), 2.60 (d, J=17.9 Hz, 1H, CHH), 2.70 (t, J=5.6 Hz, 2H, CH2), 2.81-3.06 (m, 1H, CHH), 3.51 (t, 5.7 Hz, 2H, CH2), 4.18-4.58 (m, 6H, CH2, CH2, CH2), 5.11 (dd, J=4.9, 13.2 Hz, 1H, CH), 6.72 (t, J=5.9 Hz, 1H, NH), 7.00 (d, J=8.3 Hz, 1H, Ar), 7.17 (d, J=8.1 Hz, 1H, Ar), 7.27 (br. s., 1H, Ar), 7.44 (d, J=7.9 Hz, 1H, Ar), 7.51 (s, 1H, Ar), 7.69 (d, J=7.9 Hz, 1H, Ar), 8.56 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.46, 28.07, 28.44, 31.16, 41.51, 42.75, 45.04, 47.08, 51.55, 78.81, 116.01, 117.49, 121.87, 122.90, 126.20, 126.36, 126.88, 130.25, 134.70, 138.56, 142.35, 144.86, 153.97, 155.21, 167.93, 170.96, 172.83; LCMS: MH=548: Anal Calcd for C29H33N5O6+1.1 H2O: C, 61.39; H, 6.25; N, 12.34. Found: C, 61.38; H, 6.11; N, 12.29.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 3.0 mmol, 1.11 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 1,1′-Carbonyldiimidazole | 3.3 mmol, 535 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate | 1.1 mmol, 273 mg | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | tert-butyl 6-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.2 mmol, 50 mg | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-{3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-ureido}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 290 mg, 53% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C29H33N5O6
